US04126442
N-(5-tert.-butyl-2-morpholinophenyl)phosphoramidic acid
A solution of 1 g. of dibenzyl N-(5-tert.-butyl-2-morpholinophenyl) phosphoramidic acid dissolved in 100 ml. of dry methanol and 0.4 g. of palladium on carbon catalyst (wetted in monoglyme) was hydrogenated for 1/2 hour in a hydrogenation bottle. The resultant reaction mixture was filtered through Celite and the filtrate evaporated to dryness under reduced pressure. The product was obtained as a gray, crystalline solid residue (0.7 g.; 70% yield) melting at 79°-83° C.

reactant | dibenzyl N-(5-tert.-butyl-2-morpholinophenyl) phosphoramidic acid | C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)(=O)NC1=C(C=CC(=C1)C(C)(C)C)N1CCOCC1 | C28H35N2O4P
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | N-(5-tert.-butyl-2-morpholinophenyl)phosphoramidic acid | 70% yield | C(C)(C)(C)C=1C=CC(=C(C1)NP(O)(O)=O)N1CCOCC1 | C14H23N2O4P
